US05386045
Ethylene glycol di-n-octanoate was prepared as described for ethylene glycol di-n-hexanoate (except that heating was conducted at 140°- 150° C.) from octanoyl chloride (483 ml, 2.83 mol), anhydrous ethylene glycol (78 ml, 1.40 mol) and imidazole (193 g, 2.84 mol). Obtained 381.3 g (86.7% purified yield) of clear, colorless, mobile oil (bp 145°°148° C./<1 mm Hg).

reactant | ethylene glycol di-n-hexanoate | C(CCCCC)(=O)OCCOC(CCCCC)=O | C14H26O4
reactant | octanoyl chloride | 2.83 mol, 483 ml | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | ethylene glycol | 1.40 mol, 78 ml | C(CO)O | C2H6O2
reactant | imidazole | 2.84 mol, 193 g | N1C=NC=C1 | C3H4N2
product | Ethylene glycol di-n-octanoate | C(CCCCCCC)(=O)OCCOC(CCCCCCC)=O | C18H34O4
